US07566739B2
To a solution of N-[4-[(1R)-1-aminoethyl]-2-(hydroxymethyl)phenyl]methanesulfonamide hydrochloride (40 mg, 0.14 mmol) in N,N-dimethylformamide (DMF) (2 ml), (4-tert-butyl-3,5-difluorophenoxy)acetic acid (34 mg, 0.14 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (40 mg), and 4-dimethylaminopyridine (DMAP) (0.5 mg, 0.004 mmol) were added. The solution was stirred at room temperature for 16 hours and then partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered, and evaporated. The residue obtained was purified by silica gel column chromatography, eluting with methylene chloride/ethylacetate (1:1), to give 2-(4-tert-butyl-3,5-difluorophenoxy)-N-((1R)-1-{3-(hydroxymethyl)-4-[(methylsulfonyl)amino]phenyl}ethyl)acetamide (24 mg, 36%).

reactant | N-[4-[(1R)-1-aminoethyl]-2-(hydroxymethyl)phenyl]methanesulfonamide hydrochloride | 0.14 mmol, 40 mg | Cl.N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)CO
reactant | (4-tert-butyl-3,5-difluorophenoxy)acetic acid | 0.14 mmol, 34 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1F)F | C12H14F2O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 40 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.004 mmol, 0.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(4-tert-butyl-3,5-difluorophenoxy)-N-((1R)-1-{3-(hydroxymethyl)-4-[(methylsulfonyl)amino]phenyl}ethyl)acetamide | 24 mg, 36% | C(C)(C)(C)C1=C(C=C(OCC(=O)N[C@H](C)C2=CC(=C(C=C2)NS(=O)(=O)C)CO)C=C1F)F | C22H28F2N2O5S
